Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Decompensated cirrhosis  
 
Major Surgical or Invasive Procedure:
___ Bedside Debridement

 
History of Present Illness:
___ is a ___ year old woman with a PMH significant for alcohol 
abuse and alcoholic cirrhosis, who presented to ___ 
___ after falling, and sustaining a large hematoma 
requiring surgical evacuation, who is transferred to ___ for 
advanced care.  
 Prior to her admission at ___, she had been drinking much more 
heavily for 3 weeks. During those 3 weeks, she was drinking 1 
pint of vodka daily. Prior to that, she had been drinking 1 pint 
of vodka daily, ___ days per week. She does not identify any 
inciting factors.  
 She sustained a fall at home, while inebriated, and many 
ecchymoses, with a large R foot hematoma. After 3 days at home, 
her husband urged her to seek medical care; she then presented 
to ___.  
 Per review of the ___ records:  
 - She was initially hypotensive, requiring fluid resuscitation 
(which resulted in anasarca) and pressors. Once she recovered, 
pressors were weaned and home nadolol was restarted. She 
underwent a TTE that showed unchanged moderate pulmonary 
hypertension  
 - Stool was positive for occult blood; no intervention taken, 
given the risk. Transaminases trended up, then down, then back 
up (though trend not available in records).  
 - Imaging showed new, small ascites (not tapped)  
 - Given fever and elevated transaminases, alcoholic hepatitis 
was considered. ___ DF score = 45. Prednisolone therapy 
not initiated, given concern for adherence upon discharge.  
 - Initial urinalysis was grossly positive. No treatment 
documented, though repeat urinalysis 5 days later showed clean 
urine.  
 - MRCP showed no obstruction  
 - She also had ileus/small bowel obstruction on imaging, with 
diarrhea, which was attributed to pain medication. C. difficle 
PCR was negative.  
 - Hematomas remained stable; she received 12 u pRBC, DDAVP x3, 
as well as transfusions of FFP and vitamin K to lower the INR, 
which was unsuccessful (INR initially elevated to 1.6)  
 - She was noted to be febrile, without leukocytosis; attributed 
to blood product transfusion. She was given clindamycin x48 
hours.  
 - TSH was elevated to 7.3, due to noncompliance. Levothyroxine 
was restarted.  
 - She had waxing/waning periods of visual hallucinations and 
decreased competency. She did attempt to leave AMA at one point, 
so PICC line was removed.  
 
 Notable laboratories:  
 ___ -- ___ ------- ___  
 WBC ---- 7.2 -------------------- 3.8  
 Hb ----- 5.4 -------------------- 8.7  
 Plt ---- 53 -------------------- 95  
 INR ---- 1.6 -------------------- 1.6  
 Na ----- 127 -------------------- 132  
 K ------ 3.7 -------------------- 2.9  
 Cr ----- 1.9 -------------------- 1.1  
 AST/ALT 162/20 ----------------- 160/47  
 T. bili 8.5 -------------------- 14.8  
 UA --------------- [+] ---------- [-]  
 Notable imaging studies:  
 # MRCP, ___: small ascities. Splenomegaly. Portal 
hypertension. Cholelithiasis. Mild GB wall thickening. No 
significant biliary dilatation. No CBD calculi visible.  
 # RUQ ULTRASOUND, ___: cirrhosis, with recannulized 
umbilical vein and reversal of flow in the portal vein, as 
previously seen. Small ascites. Distended GB with mild GB wall 
thickening & multiple gallstones in the region of the GB neck. 
Tenderness with compression of the GB. Mild dilation of the CBD. 
 
 # TTE, ___: LVEF 65% with no FWMA. Normal RV function. 
Moderate AI, mild MR, mild PI and mild TR. PASP 60 mm Hg. 
Dilated IVC. No pericardial effusion. No echocardiographic 
evidence for cardiac etiology to hypotension.  
 # LOWER EXTREMITY CT, ___: no fracture of the left femur. 
Large hamtoma within the hamstring musculature & left gluteus 
maximus. Subcutaneous edema.  
 # CT TORSO, ___: no acute finding in the chest, abdomen or 
pelvis. 10 mm subcutaneous nodule in the right breast 
(ultrasound follow up recommended). Cirrhosis. Recanalization of 
the umbilical vein. Varices between the spleen and left renal 
vein. Distended GB containing gallstones.  
 Of note, she was admitted to ___ in ___ for alcoholic 
hepatitis, as well as ___ and ___.  
 On the floor, she is feeling comfortable and without 
complaints.  
 Review of systems:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
Alcohol abuse complicated by presumed cirrhosis, neuropathy, and 
 
withdrawal seizures  
Alcoholic hepatitis  
Anemia  
Hypothyroidism  
Depression  
Hypertension  
 
 
Social History:
___
Family History:
None
 
Physical Exam:
ADMISSION EXAM
==================
T 99.8, BP 125/70, HR 79, R 18, SpO2 99%/RA 68.9 kg  
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclerae icteric, MMM, oropharynx clear, jaundiced 
palate, EOMI, PERRL  
 NECK: Supple, JVP not elevated, no LAD  
 CARDIAC: Regular rate and rhythm, normal S1 + S2, grade II 
diastolic murmur loudest at bilateral USBs, grade II 
holosystolic murmur at apex; no S3 or S4  
 LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 ABDOMEN: soft, mild TTP over bilateral UQ, mild distension, no 
appreciable organomegaly or fluid collection (by percussion), no 
rebound or guarding, normal bowel sounds  
 EXTREMITIES: Warm, well perfused, 2+ ___ pulses bilaterally, no 
clubbing or cyanosis; hematoma (3 cm x 3 cm) on dorsal aspect of 
R foot; RLE without edema; LLE with 2+ pitting edema to the 
knee; large & tender ecchymosis along lateral aspect of LLE; 
moderate sized ecchymosis along volar aspect of RUE  
 NEURO: face symmetric, oriented to place, date (off by 2 days, 
thought was ___ maintains normal concentration and is 
appropriate, though has occasional misunderstandings; no 
asterixis  
 SKIN: jaundiced, few facial and upper chest angiomata, dilated 
abdominal wall veins  

DISCHARGE EXAM
====================
VITAL SIGNS: Tc 98.2, BP ___ , HR ___ , R 18, SpO2 96% 
RA 
GENERAL: Alert, oriented, NAD, 
HEENT: Sclerae icteric, MMM, oropharynx clear
CARDIAC: Regular rate and rhythm, normal S1 + S2, ___ 
holosystolic murmur at apex unchanged 
LUNGS: Clear to auscultation bilaterally
ABDOMEN: soft, non tender, no rebound or guarding, normal bowel 
sounds  
EXTREMITIES: Warm, well perfused, 2+ ___ pulses bilaterally
Hematoma on foot, 3x4 cm, covered with wound vac, c/d/i
LLE with 1+ pitting edema to the knee; large & tender ecchymosis 
along lateral aspect of LLE, firm to palpation behind and around 
knee, now smaller than prior indicated margins
NEURO:  oriented to place, date, and self, no asterixis  

 
Pertinent Results:
ADMISSION LABS
===================
___ 09:25PM   ___ PTT-34.3 ___
___ 09:25PM   PLT COUNT-97*#
___ 09:25PM   PLT COUNT-97*#
___ 09:25PM   HAPTOGLOB-<5*
___ 09:25PM   ALBUMIN-3.2* CALCIUM-8.5 PHOSPHATE-2.7 
MAGNESIUM-1.6
___ 09:25PM   ALT(SGPT)-57* AST(SGOT)-180* LD(LDH)-803* ALK 
PHOS-66 TOT BILI-15.6* DIR BILI-6.0* INDIR BIL-9.6
___ 09:25PM   estGFR-Using this
___ 09:25PM   GLUCOSE-109* UREA N-25* CREAT-0.7 SODIUM-130* 
POTASSIUM-3.1* CHLORIDE-95* TOTAL CO2-23 ANION GAP-15

PERTINENT LABS:
================
LFTs trend: ALT 57-> 52-> 41   AST 180->144->100->95
Total Bilirubin: 15.6-> 14-> 12.5-> 10.9 -> 8.2

DISCHARGE LABS:
===============
___ 06:04AM BLOOD WBC-6.0 RBC-2.41* Hgb-8.0* Hct-24.6* 
MCV-102* MCH-33.2* MCHC-32.5 RDW-25.6* RDWSD-90.3* Plt ___
___ 06:04AM BLOOD Glucose-116* UreaN-15 Creat-0.7 Na-137 
K-4.3 Cl-102 HCO3-23 AnGap-16
___ 06:04AM BLOOD ALT-42* AST-95* AlkPhos-86 TotBili-8.2*
___ 06:04AM BLOOD Calcium-9.2 Phos-4.5 Mg-1.3*

IMAGES/STUDIES
==================
___ Preliminary EEG reading: no epileptiform discharges, no 
seizures, mild encephalopathy seen

___ Portal CXR: In comparison with study of ___, there 
is an placement of a Dobhoff tube, the opaque tip of which 
straddles the esophagogastric junction.  The tube should be 
pushed forward about 10 cm to be in a more optimal position. No 
evidence of acute cardiopulmonary disease.

___ Portable Abdomen: There are a few small bowel loops 
measuring top-normal in size.  Gas is seen in the distal large 
bowel.  No air-fluid levels are visualized on left lateral 
decubitus view.  There is no free intraperitoneal air.Osseous 
structures are unremarkable. There are no unexplained soft 
tissue calcifications or radiopaque foreign bodies.
 
IMPRESSION: 
Nonspecific bowel gas pattern.  No definite ileus or 
obstruction.

___ Tibia/Fibula Left Xray: There is some soft tissue edema 
in the left calf.  This is most marked laterally.  There is no 
evidence of fracture.  No bone destruction.  No embedded 
radiopaque foreign body is seen. 

___ CXR:The lungs are clear.  Heart size is top normal. No 
focal consolidations are seen.  No pneumothorax, pleural 
effusions, or pulmonary edema. 

___ CT lower extremity: Soft tissue collection at the dorsal 
aspect of the foot, likely representing a hematoma. Navicular 
cuboid developmental coalition with reactive changes at the 
synostosis. 
 
Brief Hospital Course:
___ is a ___ year old woman with alcoholic cirrhosis and 
alcohol abuse who presented to an OSH with a large hematoma 
after sustaining a fall, with anemia, as well as alcoholic 
hepatitis and further decompensation of her liver cirrhosis, is 
transferred to ___ for further care.   
 
#TRAUMATIC HEMATOMAS: patient sustained a large left hematoma on 
her left thigh as well as a deeper small lesion on the right 
foot, per history due to falling while inebriated. Both areas 
were tender to palpation and warm to touch, but there was no 
evidence of increase in size. There was no evidence of deep 
venous thrombosis. Patient was initially followed by the 
Orthopedics team, and then followed by the Plastics team, who 
debrided the right foot and recommended conservative wound care 
management and discharge on a wound vac. There was surrounding 
erythema and pain over the foot lesion, and given its open 
nature, she was initially covered on vancomycin and ceftriaxone, 
especially given fevers noted on ___. Patient did well on IV 
antibiotics with which she remained afebrile with stable vital 
signs, and was transitioned to PO Cephalexin for a 10 day total 
course for presumed soft tissue infection. Patient to follow up 
with outpatient Plastics clinic. 

#SEIZURE: Patient had a reported partially witnessed episode of 
shaking of both upper and lower extremities of unclear etiology 
or trigger. She has a prior history of seizures, and has been on 
Keppra as a home medication although with no recent neurologic 
followup. Her electrolytes were stable, with no recurrence of 
the episode. She was placed on 24 hour EEG monitoring, with 
preliminary results were negative for epileptiform changes, 
showing some minor encephalopathy. Patient's mental status 
remained stable and she was discharged with no new medication 
changes.

#NAUSEA: patient reported continued nausea during the course of 
the hospitalization, infectious workup revealing, with no 
notable new medications. High dose opioids were avoided, and 
symptoms seemed to be from prolonged poor nutrition. Her 
symptoms mildly improved after placement of Doboff tube for 
nutrition. Nausea was controlled with ondansetron and compazine 
as needed. 

#LIVER CIRRHOSIS, WITH CONCERN FOR DECOMPENSATION: MELD-Na on 
admission to ___ 27, was approximately 34 during her course. 
Possible factors inciting decompensation included alcoholic 
hepatitis, infection, anemia (patient had hgb 5.4 on admission 
to OSH and required 12 units pRBCs). Clinical picture on 
admission to OSH appeared consistent with alcoholic hepatitis, 
with a ___ DF score of 45. Corticosteroids were not given, 
and given time course of presentation, further steroids were 
avoided, especially in the setting of concern for infection. 
There was no appreciable ascites on exam or ultrasound with 
prior no history of SBP. She was continued on empiric 
antibiotics as above, was continued on Pantoprazole 40 mg BID. 
Patient was seen by social work for resources for alcohol 
counseling outpatient. 

#HYPONATREMIA: likely from hypovolemia in setting of blood loss 
and also poor oral intake, improved with tube feeds. There were 
no signs of renal function impairment, any hypervolemic state 
such as pulmonary edema or ascites.

# POOR PO Intake: complicated by nausea , suboptimal energy 
currently and need for nutrition given alcohol hepatitis. 
Patient was initiated and discharged on Jevity tube feeds with 
home ___ care.

# ACUTE BLOOD LOSS ANEMIA, ON ANEMIA OF CHRONIC DISEASE: Patient 
with chronic anemia, with initial bleeding from right foot 
hematoma for which she had required transfusion of 12 u pRBC at 
outside hospial. Her iron studies were consistent with liver 
disease/chronic disease. Pantoprazole was continued given 
history of guaic positive stools. Patient does have history of 
grade I varices (last EGD ___. Given stable blood pressures 
and no signs of acute infection, home nadolol was resumed.

#COAGULOPATHY: patient was given vitamin K for her coagulopathy, 
note did have nausea/abdominal pain to IV dosing, to be avoided 
in future care.
 
#THROMBOCYTOPENIA:  Secondary to hepatic cirrhosis, stable. 

CHRONIC ISSUES  
# SEIZURES: continued on home leviteracetam.  
# HYPOTHYROISIDM: continued on home levothyroxine.  
# PERIPHERAL NEUROPATHY: likely related to EtOH abuse, continued 
on home gabapentin.  

TRANSITIONAL ISSUES:
====================
[] Please f/u labs outpatient, discharge Total bilirubin 8.2, 
ALT 42, AST 95 Stable Creatinine at 0.7, Hgb 8
[] Patient to continue tube feeds and will follow up with PCP
[] Patient set up with wound care ___ for right foot, follow up 
with plastics clinic
[] Ongoing emphasis that patient attend AA meetings
[]f/u on breast nodule: 10 mm subcutaneous nodule on imaging in 
medial right breast. Recommend outpatient ultrasound followup.
-Full Code
-CONTACT: HCP Mother ___, ___ 
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amitriptyline 10 mg PO QHS 
2. FoLIC Acid 1 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. Gabapentin 600 mg PO TID 
5. LeVETiracetam 500 mg PO QAM 
6. Levothyroxine Sodium 25 mcg PO QAM 
7. Magnesium Oxide 400 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Nadolol 20 mg PO DAILY 
10. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
11. Thiamine 100 mg PO DAILY 
12. Lactulose 30 mL PO TID 
13. Jevity 1.5 Cal (lactose-reduced food with fibr) 0.06 
gram-1.5 kcal/mL NJ INFUSION 
14. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
15. LeVETiracetam 750 mg PO QPM 
16. Lidocaine 5% Patch 1 PTCH TD QAM 
17. TraMADOL (Ultram) 50 mg PO Q6H:PRN PAIN 
18. Fluoxetine 20 mg PO DAILY 

 
Discharge Medications:
1. Amitriptyline 10 mg PO QHS 
2. Fluoxetine 20 mg PO DAILY 
3. FoLIC Acid 1 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Gabapentin 600 mg PO TID 
6. Lactulose 30 mL PO TID 
7. LeVETiracetam 500 mg PO QAM 
8. LeVETiracetam 750 mg PO QPM 
9. Levothyroxine Sodium 25 mcg PO QAM 
10. Lidocaine 5% Patch 1 PTCH TD QAM 
11. Magnesium Oxide 400 mg PO BID 
12. Multivitamins 1 TAB PO DAILY 
13. Nadolol 20 mg PO DAILY 
14. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
15. Thiamine 100 mg PO DAILY 
16. TraMADOL (Ultram) 50 mg PO Q6H:PRN PAIN 
17. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
18. Cephalexin 500 mg PO Q6H Duration: 3 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*25 Capsule Refills:*0
19. Tube Feeds
Tubefeeding: Jevity 1.5 Full strength; 
Rate: 50 ml/hr
Flush w/ 50 ml water q6h
20. Outpatient Lab Work
CBC, Chemistry Panel, INR, Liver function tests
To be drawn: ___
ICD 10: K 70.30
Please fax results to Dr. ___ at ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary Diagnosis:
-Traumatic Hematomas 
-Malnutrition
-Hyponatremia

Secondary Diagnosis:
-Alcohol Abuse
-Hypothyroidism
-Peripheral Neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
  You were admitted to ___ on ___ after falling and having 
large bruising on your legs and an open drainage on your right 
foot. You were initially given blood transfusions for losing 
blood, and then treated for presumed infection over your foot 
given fevers you had in the hospital. 

The Plastics team recommended daily dressings, and did bedside 
care to take off any dead tissue from the foot. You are being 
discharged with a wound vac to help your foot heal and being set 
up with your prior ___ service to help with your care as well as 
wound care.

It is extremely important that you are able to keep up with your 
nutrition and continue your tube feeds at home. We also strongly 
recommend that you seek out resources to help you stop drinking 
alcohol.

We would also like you take the prescription for lab work to get 
your blood drawn on ___ (next ___ and the 
results will be sent to Dr. ___.

Please continue your antibiotics (Cephalexin every 6 hours) 
until ___.

We wish you the best,
Your ___ care team

  
 
Followup Instructions:
___